US05122537
1-(1-phenylsulfinyl-2-formylaminoethyl)-2-methoxy-naphthalene (III, (A), R=CH3R1 =R2 =H, n=1)
A concentrated solution of sodium metaperiodate (2139 mg. 10 mmol) in water is added dropwise at 0° C. under cooling to a solution of 1-(1-phenylthio-2-formylaminoethyl)-2-methoxy-naphthalene (3374 mg, 10 mmol) in methanol (100 ml). The reaction is then stirred at room temperature for 24 h. The solids are filtered off and washed several times with ethyl acetate (1000 ml). The filtrate and washings are combined and then evaporated under vacuum to yield crude title compound in about 100% yield (3534 mg ) which is used in the next step without further purification.

reactant | sodium metaperiodate | 10 mmol, 2139 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | 1-(1-phenylthio-2-formylaminoethyl)-2-methoxy-naphthalene | 10 mmol, 3374 mg | C1(=CC=CC=C1)SC(CNC=O)C1=C(C=CC2=CC=CC=C12)OC | C20H19NO2S
solvent | water | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | 1-(1-phenylsulfinyl-2-formylaminoethyl)-2-methoxy-naphthalene | about 100% yield | C1(=CC=CC=C1)S(=O)C(CNC=O)C1=C(C=CC2=CC=CC=C12)OC | C20H19NO3S
